US04962244
2,2,4,4,4-Pentafluorobutane is another undesirable by-product of the fluorination of 1,1,1-trichloroethane. I believe that it is formed by the reaction between 1,1,1-trichloroethane and vinylidene chloride, followed by the reaction of additional 1,1,1-trichloroethane with vinylidene chloride to give 1,1,1,3,3-pentachlorobutane. Grigor'ev et al., Izv. Akad. Nauk. SSSR. Ser. Khim., 6, 1333-6 (1980). Hydrofluorination of the latter produces 2,2,4,4,4-pentafluorobutane.

reactant | 1,1,1-trichloroethane | ClC(C)(Cl)Cl | C2H3Cl3
reactant | vinylidene chloride | C(=C)(Cl)Cl | C2H2Cl2
product | 1,1,1,3,3-pentachlorobutane | ClC(CC(C)(Cl)Cl)(Cl)Cl | C4H5Cl5
